US08497368B2
N-Methyl-N′-[1-(2,4,6-trifluoro-phenyl)-meth-(E)-ylidene]-hydrazine (i)
A solution of 2,4,6-Trifluoro-benzaldehyde (3 g, 18.74 mmol) and methyl hydrazine (40% in water, 2.6 ml, 18.74 mmol) in 20 ml anhydrous ethanol was stirred at room temperature for 1 hour. Solvent was evaporated to give the title compound as a white solid which was used in the next step without purification (3.95 g, 100%). LCMS (method B): [MH]+=189, tR=2.16 min.

reactant | 2,4,6-Trifluoro-benzaldehyde | 18.74 mmol, 3 g | FC1=C(C=O)C(=CC(=C1)F)F | C7H3F3O
reactant | methyl hydrazine | 18.74 mmol, 2.6 ml | CNN | CH6N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-Methyl-N′-[1-(2,4,6-trifluoro-phenyl)-meth-(E)-ylidene]-hydrazine | CN/N=C/C1=C(C=C(C=C1F)F)F | C8H7F3N2
